US07741341B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid was prepared by a procedure according to example 81 starting from 299.0 mg (0.66 mmol) 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid ethyl ester and 192.4 mg (0.66 mmol) methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester. Hydrolysis of the resulting ethyl ester by treatment with LiOH in MeOH and purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave the title compound as its formiate in form of a white amorphous solid. Yield: 90 mg MS (ES+): m/e=626, chloro pattern.

reactant | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid ethyl ester | 0.66 mmol, 299.0 mg | C(C)OC(=O)C1=C(C=CC=2NC(=NC21)C(NC2CCN(CC2)C(C)C)=O)OCC(F)(F)F | C21H27F3N4O4
reactant | methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester | 0.66 mmol, 192.4 mg | ClC1=CC=C(S1)C1=CC(=NO1)COS(=O)(=O)C | C9H8ClNO4S2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2C(=O)O)OCC(F)(F)F)C(NC2CCN(CC2)C(C)C)=O | C27H27ClF3N5O5S
